US05952511
(RS)-3-(4-Methylphenyl)aminocarbonylmethyl-3-(N'-(4-methylphenyl)ureido)indolin-2-one
To a solution of 0.150 g of (RS)-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one and 0.103 g of dicyclohexylcarbodiimide in 10 ml of N,N-dimethylformamide were added successively 0.074 g of 1-hydroxybenzotriazole and 0.052 g of p-toluidine. The resulting mixture was stirred at room temperature for 18 hours, followed by concentration. The residue was diluted with ethyl acetate and washed successively with dilute hydrochloric acid and saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified by silica gel column chromatography (chloroform/methanol=20/1) to obtain 0.083 g (44%) of the title compound as a white powder.

reactant | (RS)-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 0.150 g | OC(=O)CC1(C(NC2=CC=CC=C12)=O)NC(=O)NC1=CC=C(C=C1)C | C18H17N3O4
reactant | dicyclohexylcarbodiimide | 0.103 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 0.074 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | p-toluidine | 0.052 g | NC1=CC=C(C=C1)C | C7H9N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (RS)-3-(4-Methylphenyl)aminocarbonylmethyl-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 0.083 g, 44% | CC1=CC=C(C=C1)NC(=O)CC1(C(NC2=CC=CC=C12)=O)NC(=O)NC1=CC=C(C=C1)C | C25H24N4O3
